US09447044B2
Step A: (E)-3-(2-fluoro-4-methoxy-phenyl)-acrylic acid ethyl ester
2-Fluoro-4-methoxy-benzaldehyde (1.24 g, 3.56 mmol) and carbethoxy methylene triphenylphosphorane (2.0 g, 5.78 mmol) were dissolved in THF (10 mL), and the mixture was stirred at 65˜75° C. for 1 hour. After the termination of the reaction, the reactant was cooled, concentrated under reduced pressure, and purified by column chromatography (eluent, EtOAc/Hex=1/10) to obtain the title compound (0.6 g, 83%).

reactant | 2-Fluoro-4-methoxy-benzaldehyde | 3.56 mmol, 1.24 g | FC1=C(C=O)C=CC(=C1)OC | C8H7FO2
reactant | carbethoxy methylene triphenylphosphorane | 5.78 mmol, 2.0 g | C(=O)(OCC)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H21O2P
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (E)-3-(2-fluoro-4-methoxy-phenyl)-acrylic acid ethyl ester | 0.6 g, 83% | C(C)OC(\C=C\C1=C(C=C(C=C1)OC)F)=O | C12H13FO3
